US06403561B1
a) Preparation of N-(tert-butoxycarbonyl)-2(S)-aminobutyric acid
8 g of 2(S)-aminobutyric acid (77.6 mmol) are dissolved in a mixture of dioxane (155 ml), water (78 ml) and 1N NaOH (78 ml). The solution is cooled in an ice/salt bath and 18.62 g of di-tert-butyl dicarbonate (85.4 mmol) are added. The solution is allowed to warm to room temperature and is stirred for one hour. The mixture is then concentrated under vacuum to a volume of about 90 ml and is then acidified with KHSO4 solution. The resulting solution is extracted with methylene chloride (2×200 ml) and the combined extracts are dried and evaporated, which leads to an oil. By prolonged drying under vacuum, a waxy white solid is obtained. m.p.=65-66° C.

reactant | 2(S)-aminobutyric acid | 77.6 mmol, 8 g | N[C@H](C(=O)O)CC | C4H9NO2
reactant | di-tert-butyl dicarbonate | 85.4 mmol, 18.62 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 155 ml | O1CCOCC1 | C4H8O2
solvent | water | 78 ml | O | H2O
solvent | NaOH | 1N, 78 ml | [OH-].[Na+]
product | N-(tert-butoxycarbonyl)-2(S)-aminobutyric acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC | C9H17NO4
